US06878718B2
(±)-3-Ethoxy-4-methyl-4-phenyl-cyclobut-2-enone
A solution of (±) 2-phenylpropionic acid (10.0 g, 0.66 mmol) and DMF (0.3 ml) in DCM (150 ml) was treated dropwise with oxalyl chloride (6.4 ml, 0.72 mmol). After 1 h the reaction mixture was concentrated in vacuo, the residual slurry diluted with ET2O (200 ml) and the resulting precipitate removed by filtration. The filtrate was treated with ethoxyacetylene (40% w/w solution in hexanes, 18 ml) followed dropwise with triethylamine (25 ml, 0.19 mol) and the reaction stirred for 7d at rt. Filtration and concentration of the filtrate in vacuo followed by chromatography (SiO2, 5:1 EtOAc:hexanes) gave the title compound as a pale yellow oil (6.1 g, 45%). δH (CDCl3, 300K) 7.45-7.24 (5H, m), 5.01 (1H, s), 4.31 (2H, J 7.1 Hz), 1.67 (3H, s), 1.51 (3H, t, J 7.1 Hz); m/z (ES+, 70V) 202.9 (MH+).

reactant | (±) 2-phenylpropionic acid | 0.66 mmol, 10.0 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | DMF | 0.3 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.19 mol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | DCM | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | oxalyl chloride | 0.72 mmol, 6.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (±)-3-Ethoxy-4-methyl-4-phenyl-cyclobut-2-enone | 6.1 g, 45% | C(C)OC1=CC(C1(C1=CC=CC=C1)C)=O | C13H14O2
